US06846819B1
a) 2-Methylbenzo[b]thiophene-3-carboxaldehyde
SnCl4 (20 mL, 67 mmole) was added over 5 min to a stirred solution of 2-methylbenzo[b]thiophene (5.0 g, 33.7 mmole) in CH2Cl2 (75 mL) at 0° C. under argon. After 15 minutes, dichloromethyl methyl ether (3.7 mL, 41 mmole) was added. The reaction became a yellowish colored suspension. The reaction was allowed to warm to RT and stirred for 16 h, then was poured onto ice water (200 mL). The aqueous mixture was acidified with 1.0 N HCl (100 mL) and stirred until the suspension dissolved. The organic phase was separated, dried (MgSO4), and concentrated under vacuum. Purification by flash chromatography on silica gel (10% ethyl acetate/hexane) gave the title compound (5.83 g, 98%) as a white crystalline solid: 1H NMR (400 MHz, CDCl3) δ 10.38 (s,1H), 8.61 (d, J=8.1 Hz,1H), 7.77 (d, J=8.0 Hz,1H), 7.48 (t,1H), 7.39 (t,1H), 2.93 (s, 3H).

reactant | SnCl4 | 67 mmole, 20 mL | Cl[Sn](Cl)(Cl)Cl
reactant | 2-methylbenzo[b]thiophene | 33.7 mmole, 5.0 g | CC1=CC2=C(S1)C=CC=C2 | C9H8S
reactant | dichloromethyl methyl ether | 41 mmole, 3.7 mL | COC(Cl)Cl | C2H4Cl2O
reactant | HCl | 1.0 N, 100 mL | Cl | ClH
solvent | CH2Cl2 | 75 mL | C(Cl)Cl | CH2Cl2
product | 2-Methylbenzo[b]thiophene-3-carboxaldehyde | 5.83 g, 98% | CC1=C(C2=C(S1)C=CC=C2)C=O | C10H8OS
